US04279918
2-(4-chlorobenzyl)pyrrolidine
Heat 1.05 g of 5-(4-chlorobenzyl)pyrrolidin-2-one and 0.2 g of lithium aluminum hydride under reflux for 20 hours in 20 ml of tetrahydrofuran. Effect decomposition of the reaction product by admixing it with ice water. Then add 5 ml of 6 N sodium hydroxide solution to the resulting admixture and extract the thus-prepared base with diethyl ether. After drying the ether extract over sodium sulfate, concentrate it to obtain 0.7 g of the title compound as an oil. Convert the oil into the corresponding hydrochloride with methanol/ethereal hydrochloric acid; yield: 580 mg; m.p. of the hydrochloride 189° to 192°.

reactant | 5-(4-chlorobenzyl)pyrrolidin-2-one | 1.05 g | ClC1=CC=C(CC2CCC(N2)=O)C=C1 | C11H12ClNO
reactant | lithium aluminum hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 6 N, 5 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(4-chlorobenzyl)pyrrolidine | 0.7 g | ClC1=CC=C(CC2NCCC2)C=C1 | C11H14ClN
